US05068340
3-Hydroxy-5-pentadecylisoxazole
26(b) 69.1 ml of a 15.13% w/w hexane solution of butyllithium was added dropwise to a solution of 15.42 ml of diisopropylamine in 500 ml of tetrahydrofuran at -10° to -15° C., and the mixture was stirred at the same temperature for 15 minutes. To it was added dropwise a solution of 4.95 g of 3-hydroxy-5-methylisoxazole dissolved in 50 ml of tetrahydrofuran at -10° C., and the mixture was stirred at the same temperature for 30 minutes. It was then cooled to -55° C. after which 41.6 g of tetradecyl bromide were added all at once. After removal from the cooling bath, the mixture was stirred for 3 hours, and then 100 ml of diethyl ether were added. The mixture was washed with 150 ml of 5% w/v aqueous hydrochloric acid, and the organic layer was washed with water, dried and concentrated by evaporation under reduced pressure. 100 ml of hexane were added to the residue, and the precipitated solid was collected by filtration and washed with hexane. It was then dried to give crude crystals (13.65 g) of the title compound. Concentration of the filtered hexane solution gave a residue, which was subjected to column chromatography through 100 g of silica gel. Crude crystals (1.40 g) were obtained from the fractions eluted with a 2:1 by volume mixture of methylene chloride and diethyl ether. The combined crude crystals were recrystallized from methylene chloride to give the pure title compound (9.65 g) melting at 82°-83° C. Further crystals (3.91 g) were obtained by concentration of the mother liquor. The spectra of these compounds were identical with those ofthe compound obtained as described in (a) above.

reactant | butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 15.42 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-hydroxy-5-methylisoxazole | 4.95 g | OC1=NOC(=C1)C | C4H5NO2
reactant | tetradecyl bromide | 41.6 g | C(CCCCCCCCCCCCC)Br | C14H29Br
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-Hydroxy-5-pentadecylisoxazole | 9.65 g | OC1=NOC(=C1)CCCCCCCCCCCCCCC | C18H33NO2
